US07452886B2
6-(6-Chloro-pyridin-3-yloxymethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (1.3 mmol) is dissolved in DMSO (or DMF) (4 ml). To the solution, 2-chloro-5-hydroxypyridine (1.56 mmol) and K2CO3 (1.69 mmol) are added. The mixture is stirred at room temperature under nitrogen atomosphere for 11 h. The reaction mixture is diluted with water and extracted with AcOEt (twice) and Et2O (twice). The combined organic layer is washed with water and brine, dried over MgSO4, and concentrated in vacuo. The residue is purified by silica gel column chromatography (n-hexane:AcOEt=1:1) to give the product in 99% yield.

reactant | 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 1.3 mmol | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-hydroxypyridine | 1.56 mmol | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | K2CO3 | 1.69 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-(6-Chloro-pyridin-3-yloxymethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 99% yield | ClC1=CC=C(C=N1)OCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C18H18ClN5O
